US05773530
To a suspension of 3-[2-(2-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (679 mg) in 14 ml of tetrahydrofuran was added lithium tri-tert-butoxyaluminohydride (676 mg) at 5° C. The reaction mixture was allowed to stir at 5°-10° C. for 45 minutes, then the solvent was removed in vacuo. To the residue was added 20 ml ice-water. Then, the mixture was acidified with 1N hydrochloric acid and extracted with dichloromethane (25 ml×2). The combined extracts were washed with water (20 ml) and brine (20 ml), dried over sodium sulfate, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (30 g) eluted with a mixture of dichloromethane and ethyl acetate (10:3) to give pale yellow crystals of cis-3-[2-(2-hydroxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (677.4 mg).

reactant | 3-[2-(2-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 679 mg | O=C1C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H20N4O2
reactant | lithium tri-tert-butoxyaluminohydride | 676 mg | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | cis-3-[2-(2-hydroxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 677.4 mg | O[C@@H]1[C@@H](CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H22N4O2
